US06710055B2
g) 1-Methyl-2-methoxymethylthieno[2,3-d]imidazol-5-yl-carboxylic acid
To a solution of 0.90 g (3.54 mmol) of ethyl 1-methyl-2-methoxymethylthieno[2,3-d]imidazol-5-yl-carboxylate in 30 mL of ethanol were added dropwise 5 mL of 2 N sodium hydroxide solution and the mixture was stirred for 2 hours at ambient temperature. Then the solvent was distilled off in vacuo, the residue was taken up in 5 mL of water and washed with 10 mL of diethylether. The aqueous phase was acidified with 6 mL of 2N hydrochloric acid, cooled to 0° C. and the precipitated crystals are filtered off. Yield: 0.50 g (63% of theory), C9H10N2O3S (226.26); Rf value: 0.21 (silica gel; methylene chloride/ethanol=9:1+a few drops of acetic acid); mass spectrum: (M)+=226.

reactant | ethyl 1-methyl-2-methoxymethylthieno[2,3-d]imidazol-5-yl-carboxylate | 3.54 mmol, 0.90 g | CN1C(=NC2=C1C=C(S2)C(=O)OCC)COC | C11H14N2O3S
reactant | sodium hydroxide | 2 N, 5 mL | [OH-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-Methyl-2-methoxymethylthieno[2,3-d]imidazol-5-yl-carboxylic acid | CN1C(=NC2=C1C=C(S2)C(=O)O)COC | C9H10N2O3S
